US07592461B2
A MeOH (1 mL) solution of 3-oxo-indancarboxylic acid (85.5 mg, 0.485 mmol) was mixed with Pd/C (16.5 mg) and hydrogenated at room temperature under 55 psi H2 pressure for 18 h. The crude mixture was filtered and concentrated to give 1-indanecarboxylic acid (74.4 mg, 95%). MS Found: (M−H)·=161.

reactant | 3-oxo-indancarboxylic acid | 0.485 mmol, 85.5 mg | O=C1CC(C2=CC=CC=C12)C(=O)O | C10H8O3
catalyst | Pd/C | 16.5 mg | [Pd] | Pd
solvent | MeOH | 1 mL | CO | CH4O
product | 1-indanecarboxylic acid | 74.4 mg, 95% | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
